Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Prevacid
 
Attending: ___.
 
Chief Complaint:
CC: BRBPR

HPI(4): ___ hx afib on AC, CKD, SSS w/o PPM, TAA/AAA, 
orthostatic
hypotension, who was recently admitted for BRBPR ___,
presenting today with BRBPR after initiation of apixaban

On recent hospitalization, patient presented with HDS BRBPR and
Hgb 9.8, down from bl 11. He had CTA on admission that showed
active extravasation that prompted angiogram with ___, however, 
no
bleeding indentified. His warfarin was held throughout
hospitalization, and he subsequently underwent c-scope that
showed severe diverticulosis (non bleeding). He did not require
any transfusions during hospitalization. His course was
complicated by ___ that resolved with IVFs as well as fall w/ 
+HS
due to orthostatic hypotension. CTH neg for bleed. Warfarin held
on discharge after risk/benefit discussed with pt regarding
CHADSVASAC of 3. 

Pt reports feeling well after recent discharge. He followed up
with PCP on ___, who recommended stating apixaban 5 mg BID
for A fib and discontinuation of tamsulosin given fall during
hospitalization. Patient reports starting apixaban on ___
morning. Had normal BMs without any blood on ___, however,
woke up on ___ morning at 5 AM and had bright red blood
mixed in with stool. No blood on toilet paper. Reports brighter
in color than prior episodes. Otherwise asymptomatic, denies any
CP,SOB, lightheadedness/dizziness, f/c, n/v, abdominal pain,
palpitations.

In the ED: afebrile, HR 52-69, BP 124/87-159/80
Hgb 9.4 -> 8.4 on repeat. (Discharge hgb 8.9 on ___.
Cr 1.5 up from bl 1.2. BUN 17. bicarb 22
UA neg for infection
GI recs: BID CBC, hold apixaban, no urgent scope

ROS: 10 point review of systems is otherwise negative except as
listed above

PMH: Paroxysmal atrial fibrillation on coumadin, SSS, no
pacemaker in place, CKD, BPH, thoracic aortic aneurysem
(ascending/descending), OSA, BPH, orthostatic hypotension

PSH: laparoscopic cholecystectomy, open appendectomy, bilateral
open inguinal hernia repair
 
Social History:
___
FAMILY HISTORY: Father and mother both with hx. of CAD.  Mother
died of an MI.  

ALLERGIES/ADR: See webOMR  

EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: alert, awake, NAD. 
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMM
CV: regular rate, no m/r/g.
RESP: no increased wob, lungs clear to auscultation in all 
fields
GI: +BS, abd soft, ND. no tenderness to palpation 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. no ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
.
 
Past Medical History:
.
 
Social History:
___
Family History:
.
 
Physical Exam:
.
 
Pertinent Results:
___ 09:15AM BLOOD WBC-7.1 RBC-2.95* Hgb-9.4* Hct-28.7* 
MCV-97 MCH-31.9 MCHC-32.8 RDW-14.6 RDWSD-50.8* Plt ___
___ 12:00PM BLOOD WBC-6.8 RBC-2.71* Hgb-8.6* Hct-26.3* 
MCV-97 MCH-31.7 MCHC-32.7 RDW-14.5 RDWSD-50.1* Plt ___
___ 03:00PM BLOOD WBC-6.7 RBC-2.64* Hgb-8.4* Hct-25.6* 
MCV-97 MCH-31.8 MCHC-32.8 RDW-14.6 RDWSD-50.4* Plt ___
___ 07:59AM BLOOD WBC-5.5 RBC-2.69* Hgb-8.4* Hct-26.0* 
MCV-97 MCH-31.2 MCHC-32.3 RDW-14.8 RDWSD-51.1* Plt ___
___ 05:50AM BLOOD WBC-5.4 RBC-2.78* Hgb-8.8* Hct-26.3* 
MCV-95 MCH-31.7 MCHC-33.5 RDW-14.6 RDWSD-48.9* Plt ___
___ 12:40PM BLOOD WBC-4.9 RBC-2.60* Hgb-8.3* Hct-25.3* 
MCV-97 MCH-31.9 MCHC-32.8 RDW-14.4 RDWSD-50.4* Plt ___
___ 05:50AM BLOOD WBC-4.9 RBC-2.79* Hgb-8.7* Hct-26.9* 
MCV-96 MCH-31.2 MCHC-32.3 RDW-14.4 RDWSD-49.8* Plt ___
___ 05:50AM BLOOD WBC-6.6 RBC-2.62* Hgb-8.2* Hct-24.9* 
MCV-95 MCH-31.3 MCHC-32.9 RDW-14.5 RDWSD-49.3* Plt ___
___ 09:15AM BLOOD Neuts-65.3 ___ Monos-9.2 Eos-2.6 
Baso-0.6 Im ___ AbsNeut-4.61 AbsLymp-1.52 AbsMono-0.65 
AbsEos-0.18 AbsBaso-0.04
___ 09:15AM BLOOD ___ PTT-29.1 ___
___ 09:15AM BLOOD Glucose-104* UreaN-17 Creat-1.5* Na-138 
K-7.4* Cl-107 HCO3-22 AnGap-9*
___ 07:59AM BLOOD Glucose-93 UreaN-16 Creat-1.3* Na-142 
K-4.7 Cl-106 HCO3-24 AnGap-12
___ 05:50AM BLOOD Glucose-101* Creat-1.4* Na-143 K-4.6 
HCO3-26 AnGap-10
___ 05:50AM BLOOD Creat-1.4* Na-143 K-4.6 HCO3-25 AnGap-9*
___ 09:15AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.9
___ 05:50AM BLOOD Phos-3.7 Mg-2.0
___ 07:59AM BLOOD Mg-1.9 Iron-51
___ 07:59AM BLOOD calTIBC-294 Ferritn-43 TRF-226
___ 11:16AM BLOOD K-4.4
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: ___ hx afib on AC, CKD, SSS w/o PPM, 
TAA/AAA,
orthostatic hypotension, who was recently admitted for BRBPR
___, presenting today with BRBPR after initiation of
apixaban

ACUTE/ACTIVE PROBLEMS:

# BRBPR
# Acute blood loss anemia; acute GI hemorrhage 
Pt presenting with one episode of BRBPR after starting apixaban
day prior. Blood bright in color and mixed in with stool, not on
toilet paper. Recent hospitalization with imaging showing 
pooling
of blood in sigmoid colon and c-scope with internal hemorrhoids,
diverticulosis throughout colon- most severe in sigmoid region.
Bleeding was with stool only, had largely resolved after 
admission.  However, he had one bowel movement with blood, and 
was watched for another day, but had no further episodes.  His 
Hgb 9.4 -> 8.4 -> 8.3(discharge hgb 8.9 on ___.  Most likely 
diverticular or hemorrhoidal bleed while taking anticoagulation. 
 Because of these locations, GI consulted, and did not recommend 
a repeat colonoscopy because it would not offer any 
interventions that would be beneficial.  He received IV iron ___ 
- ___.  He will go home on folate as well as oral iron to help 
replace his stores over time. 

# A fib
CHADS2Vasc=3 (age, previous hypertension--though note he is no
longer hypertensive since Afib per his report, so score/risk may
be even lower), with relatively low risk for daily CVA. 
He continued home very low dose metoprolol succ 12.5 daily 
We discussed holding ___ and eventually restarting lower dose 
apixaban in the future  given age and CKD (2.5 BID) vs accepting 
slightly higher risk of
stroke.  I discussed this with the patient and his daughter.  
His preference
is to hold AC until he can speak with all of his outpatient 
doctors in ___, Cardiology, and PCP.  We discussed the risks and 
benefits of this strategy. He understands, had the opportunity 
to ask questions, and agrees. 

#Depression
- Fluvoxamine Maleate 100 mg PO BID
- Venlafaxine XR 75 mg PO BID    

# Orthostatic hypotension:
- continue pyridostigmine 30 BID
- of note fall on recent hospitalization occurred when off of
this medication, tamsulosin has also been dc since then 

#BPH
- continue Finasteride 5 mg PO DAILY

#HLD
- Pravastatin 40 mg PO QPM 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Fluvoxamine Maleate 100 mg PO BID 
3. Pravastatin 40 mg PO QPM 
4. Pyridostigmine Bromide 30 mg PO BID 
5. Venlafaxine XR 75 mg PO BID 
6. Vitamin D 1000 UNIT PO DAILY 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 2 mg PO DAILY 
RX *folic acid 1 mg 2 tablet(s) by mouth once a day Disp #*120 
Tablet Refills:*0 
2.  Iron (ferrous sulfate) (ferrous sulfate) 325 mg (65 mg iron) 
oral DAILY 
Please drink with orange juice  
RX *ferrous sulfate [FeroSul] 325 mg (65 mg iron) 1 tablet(s) by 
mouth once a day Disp #*60 Tablet Refills:*0 
3.  Finasteride 5 mg PO DAILY  
4.  Fluvoxamine Maleate 100 mg PO BID  
5.  Metoprolol Succinate XL 12.5 mg PO DAILY  
6.  Pravastatin 40 mg PO QPM  
7.  Pyridostigmine Bromide 30 mg PO BID  
8.  Venlafaxine XR 75 mg PO BID  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleeding 
Mild acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with GI bleeding after you 
restarted your anticoagulation. The likely source from the 
bleeding was diverticulosis, but hemorrhoids could have 
contributed also.  Your bleeding resolved, and you did not 
require any additional blood transfusions or interventions.  You 
received 2 doses of IV iron and will discuss the resumption of 
anticoagulation with the outpatient doctors who know ___. This 
should largely be driven by cardiology, and they can consider 
dose reduction from what you were on previously based on your 
age greater than ___ and chronic renal insufficiency. 

We wish you the best in your recovery, 
Your ___ Team 
 
Followup Instructions:
___